US04616011
(a) 7-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one
A quantity of 3.1 gm (0.0136 mol) of N-chloroacetyl-N-(2-(3-methoxy-phenyl)-ethyl)-amine is dissolved in 270 ml of ethanol and 1530 ml of water and illuminated for ten hours under a nitrogen atmosphere with a mercury high pressure lamp at 20° to 25° C. The solution is concentrated down to about 400 ml, mixed with sodium bicarbonate, and extracted several times with ethyl acetate. The extracts are dried over magnesium sulfate and concentrated by evaporation, and the residue is purified over a silica gel column with ethyl acetate as eluant.

reactant | N-chloroacetyl-N-(2-(3-methoxy-phenyl)-ethyl)-amine | 0.0136 mol, 3.1 gm | ClCC(=O)NCCC1=CC(=CC=C1)OC | C11H14ClNO2
reactant | water | 1530 ml | O | H2O
solvent | ethanol | 270 ml | C(C)O | C2H6O
product | 7-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | COC1=CC2=C(CC(NCC2)=O)C=C1 | C11H13NO2
